US05990142
5D (5-Bromo-2-benzofuranyl)methanol
A solution of ethyl 5-bromo-2-benzofurancarboxylate (2.20 g, 8.19 mmol) in tetrahydrofuran (75 ml) was added with sodium borohydride (1.24 g) and some drops of water. The mixture was refluxed under stirring for 18 h and, after that, was added with some drops of concentrated HCl. The volatiles were evaporated off and the resulting residue was diluted with water and extracted with ethyl ether (3×75 ml). After drying and evaporating off the solvent under reduced pressure, a crude was obtained which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform, 60:40. 1.19 g of the title product were recovered as a white solid with melting point 101-103° C. (64% yield).

reactant | ethyl 5-bromo-2-benzofurancarboxylate | 8.19 mmol, 2.20 g | BrC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9BrO3
reactant | sodium borohydride | 1.24 g | [BH4-].[Na+]
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | (5-Bromo-2-benzofuranyl)methanol | 64% yield | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
